* source UCC21710
R_R5         RDY VCC  5k TC=0,0 
C_C2         0 VDD  10u  TC=0,0 
V_V7         VCC 0  
+PWL 0 0 10u 5 50u 5 
V_V2         IN+ 0  
+PULSE 0 5 0 5n 5n 1u 2u
R_R3         FLTB VCC  5k TC=0,0 
R_R8         OC 0  1k TC=0,0 
V_V8         VDD 0  
+PWL 0 0 15u 15 95u 15 105u 15 
R_R14         0 APWM  1Meg TC=0,0 
V_V5         N16766688 0  
+PWL 0 5 45u 5 45.1u 5 48u 5 48.1u 5 
R_R10         N16768107 N16768051  33.3333 TC=0,0 
R_R12         OUTL N16768175  3 TC=0,0 
V_V6         N16768051 0 600
R_R13         OUTH N16768175  3 TC=0,0 
C_C3         N16768175 0  10n  
C_C4         VCC 0  10u  
C_C5         VCC 0  1u  
X_U1         RDY IN+ 0 OUTH OUTL OC N16766688 AIN N16778692 N16768175 0 VCC VDD
+  0 FLTB 0 UCC21710
R_R15         0 N16768175  10k TC=0,0 
X_M1         N16768107 N16768175 0 POWER_NMOS_P PARAMS: BVDSS=1200.0 IDSS=160U
+  VGS_TH=4.8 RDSON=0.005 GFS=44 CISS=14.5P COSS=0.4N CRSS=0.03N RG=1.9 VSD=3.3
+  QG=520N V_QG=10 TRR=45N
V_V10         AIN 0  
+SIN 2.5 2.5 10k 0 0 0
C_C6         APWM 0  1u  
R_R16         N16778692 APWM  5 TC=0,0 
