* C:\Users\dwegg\Desktop\Inverter\HW\Simulations\VDC_AD8479\AD8479.asc
XU1 vref V-in V+in 0 vref vout N001 AD8479
V1 N001 0 5
V2 V+in V-in SINE(1.25 1.25 10)
V3 V+in 0 20
R1 N001 vref 4.7k
R2 0 vref .1k
.tran 1
.lib ADI.lib
.backanno
.end
